US07071340B2
0.030 ml (1.1 equivalents) of 1,3-dimethylpropyleneurea and then 0.246 ml (1.1 equivalents) of 1.06M lithium bis(trimethylsilyl)amide in tetrahydrofuran are added at ambient temperature to 80 mg (0.22 mmol) of methyl 3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-carboxylate, prepared according to example 1, in solution in 2.2 ml of tetrahydrofuran. The reaction medium then assumes a dark yellow color. After stirring for 15 minutes, 0.0185 ml (1.1 equivalents) of ethyl bromide is added. After stirring for 5 minutes, water, 1N hydrochloric acid and dichloromethane are added. After separating the organic and aqueous phases, the aqueous phase is extracted three times with dichloromethane. The combined organic phases are washed with brine, are dried and are finally concentrated under vacuum. The crude reaction product is then purified by chromatography on silica gel (ethyl acetate/heptane 25/75) to give 56 mg (58%) of methyl 5-ethyl-3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-carboxylate in the form of an oil; 1H NMR (300 MHz, CDCl3): 0.97 (t, J=7.3 Hz, 3H), 2.41 (q, J=7.3 Hz, 2H), 3.83 (s, 3H), 4.28 (d, J=14.7 Hz, 1H), 4.58 (d, J=14.7 Hz, 1H), 4.86 (s, 1H), 5.02 (s, 1H), 6.82 (d, J=8.5 Hz, 1H), 7.35 (m, 5H), 7.85 (dd, J=8.46 and 2 Hz, 1H), 8.08 (d, J=2.07 Hz, 1H).

reactant | lithium bis(trimethylsilyl)amide | 1.06M, 0.246 ml, 1.1 equivalents | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl 3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-carboxylate | 0.22 mmol | C=C1COC2=C(C(C1)S(=O)(=O)C1=CC=CC=C1)C=C(C=C2)C(=O)OC | C19H18O5S
reactant | ethyl bromide | 0.0185 ml, 1.1 equivalents | C(C)Br | C2H5Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.2 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methyl 5-ethyl-3-methylene-5-(phenylsulfonyl)-2,3,4,5-tetrahydro-1-benzoxepin-7-carboxylate | 56 mg, 58% | C(C)C1(CC(COC2=C1C=C(C=C2)C(=O)OC)=C)S(=O)(=O)C2=CC=CC=C2 | C21H22O5S
